US05187160
Bis(trifluoroacetic acid salts) of 7β-amino-3-[3-formamido-2-(3-formyloxypropyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate (5.30 g) was added to methanol (31.8 ml). Concentrated hydrochloric acid was added dropwise thereto with stirring at room temperature. The mixture was stirred for 3 hours. The reaction mixture was pulverized with ethyl acetate (400 ml) to give 7β-amino-3-[3-amino-2-(3-hydroxypropyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate trihydrochloride.

reactant | 7β-amino-3-[3-formamido-2-(3-formyloxypropyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate | 5.30 g | N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)NC=O)CCCOC=O)C(=O)[O-])C1=O | C16H19N5O6S
reactant | methanol | 31.8 ml | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 7β-amino-3-[3-amino-2-(3-hydroxypropyl)-1-pyrazolio]methyl-3-cephem-4-carboxylate trihydrochloride | Cl.Cl.Cl.N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C(=CC2)N)CCCO)C(=O)[O-])C1=O | InChI=1S/C14H19N5O4S.3ClH/c15-9-2-4-17(18(9)3-1-5-20)6-8-7-24-13-10(16)12(21)19(13)11(8)14(22)23;;;/h2,4,10,13,15,20H,1,3,5-7,16H2,(H,22,23);3*1H/t10-,13-;;;/m1.../s1
